US05691331
Step II-E: N-(2,4-Dioxo-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl)-2-(3,5-dichlorophenyl) acetamide
To a stirring solution of 3-amino-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione (180 mg, 0.57 mmol) in N,N-dimethylformamide (2 mL) was added EDC (131 mg, 0.69 mmol), HOBT (46 mg, 0.34 mmol) and 3,5-dichlorophenylacetic acid (140 mg, 0.69 mmol). The reaction was stirred at room temperature for 2 hours. The reaction was diluted with ethyl acetate (50 mL), then washed with 10% aqueous potassium hydrogen sulfate (25 mL) then saturated aqueous sodium hydrogen carbonate (25 mL) and finally, brine (25 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 25-40% ethyl acetate:hexane to give 100 mg of product which was crystallized from ethyl acetate/hexane to give colorless crystals (70 mg). m.p.=185°-186° C.

reactant | 3-amino-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-1,5-benzodiazepine-2,4-dione | 0.57 mmol, 180 mg | NC1C(N(C2=C(N(C1=O)C(C)C)C=CC=C2)CC(F)(F)F)=O | C14H16F3N3O2
reactant | EDC | 0.69 mmol, 131 mg
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,5-dichlorophenylacetic acid | 0.69 mmol, 140 mg | ClC=1C=C(C=C(C1)Cl)CC(=O)O | C8H6Cl2O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dioxo-1-(2-propyl)-5-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl)-2-(3,5-dichlorophenyl) acetamide | 100 mg | O=C1C(C(N(C2=C(N1C(C)C)C=CC=C2)CC(F)(F)F)=O)NC(CC2=CC(=CC(=C2)Cl)Cl)=O | C22H20Cl2F3N3O3
